US07365061B2
Part III: Trans 2-carboethoxy-3-carboxy-1,2,3,4-tetrahydronaphthalene
To a stirred solution of trans 2,3-dicarboethoxy-1,2,3,4-tetrahydronaphthalene (2.1 g, 7.6 mmol) in ethanol (10 mL) at room temperature under nitrogen was added 1.0 M aqueous sodium hydroxide solution (7.6 mL, 7.6 mmol). After 16 h, 1.0 M aqueous hydrochloric acid solution (10 mL) was added to quench the reaction mixture. Upon completion of addition, the reaction mixture was concentrated under vacuum to yield a residue. The residue was diluted with ethyl acetate. The organic layer was washed with 1.0 M aqueous hydrochloric acid solution, saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, and concentrated under vacuum to yield a residue. The residue was purified by silica gel chromatography (50% ethyl acetate in hexane was used) to yield the title compound (1.37 g, 73%). 13C NMR (400 MHz, (CD3)2CO) δ 175.7, 174.7, 135.0, 134.9, 129.3, 129.2, 127.0, 61.0, 42.8, 42.5, 32.2, 14.4. 1H NMR (400 MHz, (CD3)2CO) δ 7.02 (s, 4H), 4.03 (m, 2H), 2.74-3.09 (m, 6H), 1.13 (t, J=7.0 Hz, 6H). MS [M+Na]+, 271.

reactant | trans 2,3-dicarboethoxy-1,2,3,4-tetrahydronaphthalene | 7.6 mmol, 2.1 g | C(=O)(OCC)[C@@H]1CC2=CC=CC=C2C[C@H]1C(=O)OCC | C16H20O4
reactant | sodium hydroxide | 7.6 mmol, 1.0 M, 7.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 M, 10 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans 2-carboethoxy-3-carboxy-1,2,3,4-tetrahydronaphthalene | 1.37 g, 73% | C(=O)(OCC)[C@@H]1CC2=CC=CC=C2C[C@H]1C(=O)O | C14H16O4
